US08017602B2
Step vi) N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(4-fluoro-3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanamide
The subtitled compound (3.3 g) was prepared from 3-(4-fluoro-3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid [Example 13, Step v)] and N-(2,2-dimethoxyethyl)cyclohexanamine using a similar method to that described in Example 12, Step iii). MS [M+H-MeOH]+=430 (MultiMode+) 1H NMR (400 MHz, CD3OD) δ 7.99 and 7.98 (2×s, 1H), 7.86 (and 7.85 (2×s, 1H), 7.47 (m, 1H), 7.09-6.97 (m, 2H), 4.51 and 4.36 (2×t, J=5.4 Hz, 1H), 4.00 and 3.62 (tt, J=3.2 and 12.0 Hz, 1H), 3.920 and 3.918 (2×s, 3H), 3.75-3.63 (m, 4H), 3.34 (s, 3H), 3.33 (d, J=5.6 Hz, 1H), 3.32 (s, 3H), 3.25 (d, J=5.2 Hz, 1H), 2.86-2.79 (m, 2H), 2.65 and 2.63 (2×t, J=6.1 Hz, 2H), 1.79-1.01 (m, 10H); a ˜1:1 mixture of rotamers is observed.

reactant | 3-(4-fluoro-3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid | FC1=C(C=C(CCOCCC(=O)O)C=C1)C=1C=NN(C1)C | C15H17FN2O3
reactant | N-(2,2-dimethoxyethyl)cyclohexanamine | COC(CNC1CCCCC1)OC | C10H21NO2
product | N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(4-fluoro-3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanamide | 3.3 g | C1(CCCCC1)N(C(CCOCCC1=CC(=C(C=C1)F)C=1C=NN(C1)C)=O)CC(OC)OC | C25H36FN3O4
